US04416890
2-Sulfamoyl-6-benzothiazolyl 2-Phenylacetate
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (4.6 g., 0.02 mole), triethylamine (2.8 ml., 0.02 mole) and 4-dimethylaminopyridine (200 mg., catalyst) in dimethylformamide (20 ml.), is added phenylacetic anhydride (5.2 g., 0.02 mole). The reaction mixture is stirred for 2 hours, poured into ice water, acidified with hydrochloric acid and extracted with ether. The organic extract is washed with water and dried over magnesium sulfate. The ether is distilled at reduced pressure and the residue chromatographed on silica gel (150 g., 70-230 mesh, U.S. Standard) using ethylacetate-hexane (1:1) as the eluent to give 1.5 g. of 2-sulfamoyl-6-benzothiazolyl 2-phenylacetate which melts at 177°-179° C. after recrystallization from benzene.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.02 mole, 4.6 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | triethylamine | 0.02 mole, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetic anhydride | 0.02 mole, 5.2 g | C1(=CC=CC=C1)CC(=O)OC(CC1=CC=CC=C1)=O | C16H14O3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Sulfamoyl-6-benzothiazolyl 2-Phenylacetate | C1(=CC=CC=C1)CC(=O)OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1 | C15H12N2O4S2
